US06110933
A mixture of (S)-3-azidohexadecanamide (0.17 g) and 10% palladium on carbon (20 mg) was hydrogenated at atmospheric pressure for 5 hours. The catalyst was filtered off with celite, and the filtrate was concentrated under reduced pressure. The residue was recrystallized from ethyl acetate (3 ml) to give (S)-3-aminohexadecanamide (106 mg).

reactant | (S)-3-azidohexadecanamide | 0.17 g | N(=[N+]=[N-])[C@H](CC(=O)N)CCCCCCCCCCCCC | C16H32N4O
catalyst | palladium on carbon | 20 mg | [Pd] | Pd
product | (S)-3-aminohexadecanamide | 106 mg | N[C@H](CC(=O)N)CCCCCCCCCCCCC | C16H34N2O
